* source FLIPFLOP
M_VQ         N14999 N14408 0 0 NMOSInv           
M_M2         N14999 N14408 N14872 N14872 PMOSInv           
C_C1         0 N14999  155f  TC=0,0 
V_V1         N14872 0 3
M_M3         N14999 N14872 N14995 N14995 NMOSclock           
M_M4         N14995 N18545 0 0 NMOSclock           
M_VQb         N14408 N14999 0 0 NMOSInv           
M_M7         N14408 N14872 N15522 N15522 NMOSclock           
M_M8         N15522 N17431 0 0 NMOSclock           
C_C2         0 N14408  155f  TC=0,0 
M_M5         N14408 N14999 N14872 N14872 PMOSInv           
V_VSET         N17431 0  
+PULSE 0 3 370p 0 0 185p 740p
V_VREST         N18545 0  
+PULSE 0 3 0 0 0 185p 740p
